US07659279B2
Trifluoroacetic acid (25 ml) was added in one portion to tert-butyl (2S)-2-[({4-[3-chloro-4-fluoro-anilino]-7-methoxyquinazolin-5-yl}oxy)methyl]pyrrolidine-1-carboxylate (1.6 g) and the solution was stirred at room temperature for 1 hour 30 minutes. The solution was then concentrated in vacuo and azeotroped three times with ether to leave an orange oil. 7N Ammonia in methanol (5 ml) was added and the mixture was stirred for 10 minutes. The mixture was then concentrated in vacuo to leave an orange oil and purified by column chromatography using 0-10% methanol in DCM as eluent to give N-(3-chloro-4-fluorophenyl)-7-methoxy-5-[(2S)-pyrrolidin-2-ylmethoxy]-quinazolin-4-amine as a light yellow solid (1.15 g, 75% over two steps); Mass spectrum MH+ 403.

reactant | Trifluoroacetic acid | 25 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | tert-butyl (2S)-2-[({4-[3-chloro-4-fluoro-anilino]-7-methoxyquinazolin-5-yl}oxy)methyl]pyrrolidine-1-carboxylate | 1.6 g | ClC=1C=C(NC2=NC=NC3=CC(=CC(=C23)OC[C@H]2N(CCC2)C(=O)OC(C)(C)C)OC)C=CC1F | C25H28ClFN4O4
reactant | Ammonia | 7N | N | H3N
solvent | methanol | 5 ml | CO | CH4O
product | N-(3-chloro-4-fluorophenyl)-7-methoxy-5-[(2S)-pyrrolidin-2-ylmethoxy]-quinazolin-4-amine | ClC=1C=C(C=CC1F)NC1=NC=NC2=CC(=CC(=C12)OC[C@H]1NCCC1)OC | C20H20ClFN4O2
